US04062861
To a solution of 1-methyl-3-(5-t-butyl-3-isoxazolyl)urea (1.97 g) in pyridine (30 ml), butylsulfenyl chloride (1.08 mol equivalent) is added at -30° to -40° C. The resultant mixture is allowed to stand at -30° to -40° C for 6 hours and at room temperature overnight. The reaction mixture is chromatographed on a column of silica gel, whereby 1-methyl-1-butylthio-3-(5-t-butyl-3-isoxazolyl)urea (0.31 g) is obtained as an oil. I.R.: 1698, 1606 cm-1 (CCl4).

reactant | 1-methyl-3-(5-t-butyl-3-isoxazolyl)urea | 1.97 g | CNC(=O)NC1=NOC(=C1)C(C)(C)C | C9H15N3O2
reactant | butylsulfenyl chloride | 1.08 mol | C(CCC)SCl | C4H9ClS
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1-methyl-1-butylthio-3-(5-t-butyl-3-isoxazolyl)urea | 0.31 g | CN(C(=O)NC1=NOC(=C1)C(C)(C)C)SCCCC | C13H23N3O2S
